US08383631B2
3-amino-1-{(4-phenylpiperazin-1-yl)propanoyl}-6-N-{(furan-2-yl)methyl}-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridin-7-one (Compound 20)
A target compound (192.8 mg, 0.429 mmol, 96.2%) was yielded as solid in the same manner as Example 1 by reacting 3-amino-6-N-((furan-2-yl)methyl)-5,6-dihydro-1H-pyrazolo[3,4-c]pyridin-7(4H)-one (104 mg, 0.447 mmol) with potassium carbonate (92.6 mg, 0.670 mmol) and 3-chloro-1-(4-phenylpiperazin-1-yl)propan-1-one (124.1 mg, 0.491 mmol).

reactant | 3-amino-6-N-((furan-2-yl)methyl)-5,6-dihydro-1H-pyrazolo[3,4-c]pyridin-7(4H)-one | 0.447 mmol, 104 mg | NC1=NNC=2C(N(CCC21)CC=2OC=CC2)=O | C11H12N4O2
reactant | potassium carbonate | 0.670 mmol, 92.6 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-chloro-1-(4-phenylpiperazin-1-yl)propan-1-one | 0.491 mmol, 124.1 mg | ClCCC(=O)N1CCN(CC1)C1=CC=CC=C1 | C13H17ClN2O
product | 3-amino-1-{(4-phenylpiperazin-1-yl)propanoyl}-6-N-{(furan-2-yl)methyl}-4,5,6,7-tetrahydro-1H-pyrazolo[3,4-c]pyridin-7-one | NC1=NN(C=2C(N(CCC21)CC=2OC=CC2)=O)C(CCN2CCN(CC2)C2=CC=CC=C2)=O | C24H28N6O3
